US07691877B2
Cyclopentanone-tert-butyl imine
Cyclopentanone (13.3 mL, 150 mmol) and tert-butylamine (47.4 mL, 450 mmol) were combined in 110 mL diethyl ether under a nitrogen atmosphere and were then cooled to −55° C. in a dry ice/acetonitrile bath. Titanium tetrachloride (8.2 mL, 75 mmol) was taken up in 70 mL pentane and added dropwise to the above solution, being careful to maintain the temperature at −40° C. the reaction was then stirred at −40° C. for 6 h and was then allowed to warm to room temperature overnight. The reaction mixture was filtered through a short plug of celite and washed with diethyl ether. The filtrate was evaporated in vacuo to yield 15.9 g (76%) of the title product as a clear oil.

reactant | Cyclopentanone | 150 mmol, 13.3 mL | C1(CCCC1)=O | C5H8O
reactant | tert-butylamine | 450 mmol, 47.4 mL | C(C)(C)(C)N | C4H11N
solvent | diethyl ether | 110 mL | C(C)OCC | C4H10O
solvent | pentane | 70 mL | CCCCC | C5H12
catalyst | Titanium tetrachloride | 75 mmol, 8.2 mL | [Ti](Cl)(Cl)(Cl)Cl
product | Cyclopentanone-tert-butyl imine | 15.9 g, 76% | C(C)(C)(C)N=C1CCCC1 | C9H17N
